US07612079B2
(2-Chloro-9-isopropyl-9H-purin-6-yl)-(3-nitro-phenyl)-amine
(2-Chloro-9H-purin-6-yl)-(3-nitro-phenyl)-amine (872 mg, 3 mmol) was dissolved in dry DMF (10 mL). NaH (122 mg, 5.1 mmol) was added in portions and the resulting mixture was stirred for 1 h. 2-Bromopropane (480 mg, 3.9 mmol) was then added and the reaction was stirred overnight at 80° C. under N2. After cooling, H2O (50 mL) was added slowly with stirring and cooling. After 1 h, precipitated product was filtered, washed with more cold H2O, and dried in vacuo to afford the title compound as a lemon-yellow powder (905 mg, 90.7%). TLC (95:5 CH2Cl2/MeOH): RF=0.46.

reactant | (2-Chloro-9H-purin-6-yl)-(3-nitro-phenyl)-amine | 3 mmol, 872 mg | ClC1=NC(=C2N=CNC2=N1)NC1=CC(=CC=C1)[N+](=O)[O-] | C11H7ClN6O2
reactant | NaH | 5.1 mmol, 122 mg | [H-].[Na+]
reactant | 2-Bromopropane | 3.9 mmol, 480 mg | BrC(C)C | C3H7Br
reactant | H2O | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2-Chloro-9-isopropyl-9H-purin-6-yl)-(3-nitro-phenyl)-amine | 905 mg, 90.7% | ClC1=NC(=C2N=CN(C2=N1)C(C)C)NC1=CC(=CC=C1)[N+](=O)[O-] | C14H13ClN6O2
